US09403801B2
6-(9-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecan-3-yl)nicotinonitrile
To a suspension of 5-chloro-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(3-azaspiro[5.5]undecan-9-yl) pyrimidine-2,4-diamine (0.11 g, 0.29 mmol) in a mixture of DCM and MeOH (5.0 mL/5.0 mL) were added 6-chloropyridine-3-carbonitrile (0.086 g, 0.62 mmol) and Et3N (0.10 mL, 0.72 mmol). The mixture was heated to reflux overnight and then concentrated in vacuo. The residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=50/1) to afford the product as a light yellow solid (55 mg, 39%).

reactant | 5-chloro-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(3-azaspiro[5.5]undecan-9-yl) pyrimidine-2,4-diamine | 0.29 mmol, 0.11 g | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CCC2(CCNCC2)CC1 | C18H26ClN7
reactant | 6-chloropyridine-3-carbonitrile | 0.62 mmol, 0.086 g | ClC1=CC=C(C=N1)C#N | C6H3ClN2
reactant | Et3N | 0.72 mmol, 0.10 mL | CCN(CC)CC | C6H15N
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | MeOH | 5.0 mL | CO | CH4O
product | 6-(9-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecan-3-yl)nicotinonitrile | 55 mg, 39% | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CCC2(CCN(CC2)C2=NC=C(C#N)C=C2)CC1 | C24H28ClN9
